US08669361B2
Following the procedure for Example 273 starting with 1,3-dibromobenzene and (S)-pyrrolidin-3-ol and tert-butyl 2-bromo-4-(1-methyl-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate gave (S)-tert-butyl 2-(3-(3-hydroxypyrrolidin-1-yl)phenyl)-4-(1-methyl-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate as a yellow solid (110 mg, 40%). LCMS (ES+) m/z 485 (M+1)

reactant | 1,3-dibromobenzene | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | (S)-pyrrolidin-3-ol | N1C[C@H](CC1)O | C4H9NO
reactant | tert-butyl 2-bromo-4-(1-methyl-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate | BrC=1SC(=C(N1)C(NC=1C=NN(C1)C)=O)NC(OC(C)(C)C)=O | C13H16BrN5O3S
product | (S)-tert-butyl 2-(3-(3-hydroxypyrrolidin-1-yl)phenyl)-4-(1-methyl-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate | 110 mg, 40% | O[C@@H]1CN(CC1)C=1C=C(C=CC1)C=1SC(=C(N1)C(NC=1C=NN(C1)C)=O)NC(OC(C)(C)C)=O | C23H28N6O4S
